US08975254B2
a) Ethyl 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylate
Ethyl 2-(4-piperidino)-1,3-oxazole-4-carboxylate (500 mg, 2.230 mmol) and triethylamine (0.466 ml, 3.34 mmol) were dissolved in dry DCM and cooled down to 0° C. Methanesulfonyl chloride (0.190 ml, 2.453 mmol) was added slowly at 0° C. and the reaction mixture was stirred at RT overnight. Small amount of water was added carefully and organic phase was washed with 1M Na2CO3 and water. Organic phase was dried and evaporated to yield the title compound 89%. 1H-NMR (400 MHz; CDCl3): δ 1.38 (t, 3H), 1.97-2.11 (m, 2H), 2.15-2.24 (m, 2H), 2.81 (s, 3H), 2.88-3.07 (m, 3H), 3.72-3.82 (m, 2H), 4.39 (q, 2H), 8.17 (s, 1H).

reactant | Ethyl 2-(4-piperidino)-1,3-oxazole-4-carboxylate | 2.230 mmol, 500 mg | CCOC(=O)C1=COC(=N1)C2CCNCC2 | C11H16N2O3
reactant | triethylamine | 3.34 mmol, 0.466 ml | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 2.453 mmol, 0.190 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(1-(methylsulfonyl)piperidin-4-yl)oxazole-4-carboxylate | 89% | CS(=O)(=O)N1CCC(CC1)C=1OC=C(N1)C(=O)OCC | C12H18N2O5S
